US09303044B2
N-(3-acetyl-5-(5-oxo-7-(piperazin-1-yl)-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-2-yl)phenyl)-2-aminoacetamide
To a solution of tert-butyl 4-(2-(3-(2-(tert-butoxycarbonylamino)-acetamido)-5-(1,2-dihydroxypropan-2-yl)phenyl)-5-oxo-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-7-yl)piperazine-1-carboxylate (27.0 mg, 0.041 mmol) in THF (0.5 ml)/Water (0.500 ml) is added NaIO4 (17.5 mg, 0.082 mmol). The mixture is stirred at room temperature for 2 h and then extracted with EtOAc (2×10 ml). The combined organic layers are washed with brine and dried over Na2SO4. After the removal of organic solvent in vacuo, the crude product (26 mg) is directly used without further purification for the next step as described in Step 6 of Example 1.

reactant | tert-butyl 4-(2-(3-(2-(tert-butoxycarbonylamino)-acetamido)-5-(1,2-dihydroxypropan-2-yl)phenyl)-5-oxo-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-7-yl)piperazine-1-carboxylate | 0.041 mmol, 27.0 mg | C(C)(C)(C)OC(=O)NCC(=O)NC=1C=C(C=C(C1)C(CO)(C)O)C1=NN2C(=NC(=CC2=O)N2CCN(CC2)C(=O)OC(C)(C)C)S1 | C30H41N7O8S
reactant | Water | 0.500 ml | O | H2O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | N-(3-acetyl-5-(5-oxo-7-(piperazin-1-yl)-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-2-yl)phenyl)-2-aminoacetamide | C(C)(=O)C=1C=C(C=C(C1)C1=NN2C(=NC(=CC2=O)N2CCNCC2)S1)NC(CN)=O | C19H21N7O3S
